* C:\Users\elima\.julia\dev\jlSPICE\src\ESR_Test.asc
V1 Vsrc 0 SINE(0 20 25000) AC 1
Ldrive N001 0 10u Rser=50m
Ldrive1 N001 Vsrc 10u Rser=1
C1 N001 0 10u Rser=50m
.ac dec 10000 1k 100k
*.tran 0 10m 0 .1u
.backanno
.end
