* C:\Users\elima\Dropbox\Julia\JLSpice\TestCirc1.asc
V1 Vsrc 0 SINE(0 20 25000) AC 10
Rdrive N003 0 1
Ldrive N002 N003 100u
L1 V0 N001 64.8u Rser=1m
L2 N001 N002 132u Rser=1m
C1 V0 Vsrc 2u
C2 N001 0 2u
C4 N002 0 1u
.ac dec 10000 1k 999k
*.tran 0 10m 0 .1u
.backanno
.end
