* C:\Users\elima\.julia\dev\jlSPICE\src\TestCirc1_2Src.asc
V1 Vsrc 0 SINE(0 20 25000) AC 10
Ldrive N002 0 71u Rser=200m
L1 V0 N001 64.8u Rser=100m
L2 N001 N002 132u Rser=100m
C1 V0 Vsrc 2u Rser=10m
C2 N001 0 2u Rser=10m
C4 N002 0 1u Rser=10m
.ac dec 10000 1k 100k
*.tran 0 10m 0 .1u
.backanno
.end
